US06150526
A solution of 70 mg (0.156 mmol) of tert-butyl (3'RS,4'RS)-5-hydroxymethyl-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[2,4']bipyridine-1'-carboxylate in 2 ml of absolute DMF was cooled to -10° C. and treated with 26 μl (19 mg,0.187 mmol) of triethylamine. 13 μl (20 mg, 0.172 mmol) of methanesulphonyl chloride and 2 mg of N,N-dimethylaminopyridine (DMAP) were added at -10 to -15° C. and subsequently the mixture was stirred at 0° C. for 1 hour. For the working-up, the mixture was partitioned between 25 ml of ethyl acetate and 25 ml of aqueous 5% ammonium chloride solution and the organic phase was separated. The aqueous phase was extracted three times with 10 ml of ethyl acetate each time. The combined ethyl acetate phases were dried over magnesium sulphate and finally evaporated under reduced pressure. The crude product was purified by chromatography on silica gel with a 1:1 mixture of ethyl acetate and hexane as the eluent. There were obtained 22 mg (35% of theory) of tert-butyl (3'RS,4'RS)-5-chloromethyl-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[2,4']bipyridine-1'-carboxylate as a light yellow oil; MS: 467, 469 (M+H)+.

reactant | tert-butyl (3'RS,4'RS)-5-hydroxymethyl-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[2,4']bipyridine-1'-carboxylate | 0.156 mmol, 70 mg | OCC=1C=CC(=NC1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C27H32N2O4
reactant | triethylamine | 0.187 mmol, 26 μl, 19 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.172 mmol, 13 μl, 20 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | tert-butyl (3'RS,4'RS)-5-chloromethyl-3'-(naphthalen-2-ylmethoxy)-3',4',5',6'-tetrahydro-2'H-[2,4']bipyridine-1'-carboxylate | 22 mg, 35% | ClCC=1C=CC(=NC1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C27H31ClN2O3
